US06436965B1
{1-[(4-Methylphenyl)methyl]-3-(phenylmethoxy)indol-2-yl}-N-(3-pyridyl)formamide (Compound 73)
Following the procedure describing the preparation of example 6, methyl 3-(phenylmethoxy)indole-2-carboxylate (100 mg) in DMP (5.0 mL) was treated with 12 mg of a NaH suspension (60% in oil) followed by 4-methybenzyl bromide (100 mL). After work-up the crude alkylated material was taken up in dry THF (10 mL) and treated with the lithium 3-pyridylamide (0.3 M in THF) solution as describied previously. Following work-up and purification by flash chromatography the title indole (58.7 mg) was obtained as a white solid.

reactant | methyl 3-(phenylmethoxy)indole-2-carboxylate | 100 mg | C1(=CC=CC=C1)COC1=C(NC2=CC=CC=C12)C(=O)OC | C17H15NO3
reactant | NaH | 12 mg | [H-].[Na+]
reactant | 4-methybenzyl bromide | 100 mL | CC1=CC=C(CBr)C=C1 | C8H9Br
reactant | lithium 3-pyridylamide | 0.3 M | N1=CC(=CC=C1)[NH-].[Li+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | {1-[(4-Methylphenyl)methyl]-3-(phenylmethoxy)indol-2-yl}-N-(3-pyridyl)formamide | CC1=CC=C(C=C1)CN1C(=C(C2=CC=CC=C12)OCC1=CC=CC=C1)N(C=O)C=1C=NC=CC1 | C29H25N3O2
